data/oMe_Silver.jsonl
{"reaction_id": "NR-213_1-c2cnccc2_2-c2ccc(OC)cc2_3-c2ccccc2_4-S(=O)(=O)c2ccc(C)cc2","level": "medium","name": "Payne Epoxidation","reactants_smiles": ["OO","N#C(c2cnccc2)","C(c2ccc(OC)cc2)=C(c2ccccc2)(S(=O)(=O)c2ccc(C)cc2)"],"products_smiles": ["C(c2ccc(OC)cc2)1OC1(c2ccccc2)(S(=O)(=O)c2ccc(C)cc2)"],"conditions": "base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]O","step_weight": 0,"rationale": "Base deprotonates hydrogen peroxide, generating a hydroperoxide anion stabilized by resonance and inductive effects, increasing nucleophilicity for the next step."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[N-]=C(OO)(c2cnccc2)","step_weight": 0,"rationale": "The hydroperoxide anion attacks the electrophilic carbon of the isocyanide, whose electron-deficient nature arises from the polarized C≡N bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OOC(=N)(c2cnccc2)","step_weight": 0,"rationale": "Proton transfer converts the anionic intermediate into a neutral peroxyimidate, stabilizing the leaving group for the upcoming oxygen transfer."},{"step": 4,"type": "pericyclic","subtype": "group_transfer","intermediate_smiles": "C(c2ccc(OC)cc2)1OC1(c2ccccc2)(S(=O)(=O)c2ccc(C)cc2)","step_weight": 0,"rationale": "A concerted pericyclic oxygen transfer occurs, driven by the electrophilicity of the alkene and the strong thermodynamic preference for forming the stable three-membered epoxide ring."}],"description": "Under basic conditions, hydrogen peroxide is deprotonated to form a more nucleophilic hydroperoxide anion, which attacks the electrophilic carbon of an isocyanide to form a peroxyimidate. Subsequent proton transfer and a concerted oxygen transfer to the alkene yield the epoxide via a Payne-type mechanism."}
{"reaction_id": "NR-229_1-CC(C)CC_2-CCCC_3-C1CCC1_4-C1CCCCC1_5-c1ccsc1","level": "medium","name": "Prins Reaction","reactants_smiles": ["O=C(CC(C)CC)(CCCC)","C(C1CCC1)=C(C1CCCCC1)(c1ccsc1)","O"],"products_smiles": ["C([OH])(C1CCCCC1)(c1ccsc1)C(C1CCC1)(C(O)(CC(C)CC)(CCCC))"],"conditions": "acidic conditions","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(CC(C)CC)(CCCC)","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via resonance and inductive effects, making it more susceptible to nucleophilic attack by the alkene."},{"step": 2,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "[C+](C1CCCCC1)(c1ccsc1)C(C1CCC1)(C(O)(CC(C)CC)(CCCC))","step_weight": 0,"rationale": "The electron-rich alkene attacks the activated carbonyl carbon, forming a carbocation stabilized by adjacent substituents and the oxygen atom through inductive and hyperconjugative effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([OH2+])(C1CCCCC1)(c1ccsc1)C(C1CCC1)(C(O)(CC(C)CC)(CCCC))","step_weight": 0,"rationale": "Water, abundant under acidic conditions, acts as a nucleophile and attacks the carbocation center, favored by the high electrophilicity and lack of steric hindrance at that position."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([OH])(C1CCCCC1)(c1ccsc1)C(C1CCC1)(C(O)(CC(C)CC)(CCCC))","step_weight": 0,"rationale": "Deprotonation of the oxonium intermediate restores neutrality, driven by the stability of the neutral alcohol and the presence of a suitable base in the medium."}],"description": "Under acidic conditions, the carbonyl is protonated to enhance electrophilicity, enabling the alkene to attack and form a carbocation. Water then adds to the carbocation, and final deprotonation yields the Prins reaction product with hydroxyl substitution."}
